US05185352
2-Hydroxymethyl-5-octadecyloxy-1-propyl-4(1H)-pyridone
A mixture of 20.0 g (51 mMole) 2-hydroxymethyl-5-octadecyloxy-4-pyranone and 30 mL of a 40% solution of propylamine in ethanol is heated in an autoclave at 100°-110° C. for 5 hours. After cooling, the crystallizate formed is taken up in water, stirred, filtered off, dried and recrystallized from ethyl acetate, colorless crystals thereby being obtained; m.p. 120°-121° C.

reactant | 2-hydroxymethyl-5-octadecyloxy-4-pyranone | 51 mMole, 20.0 g | OCC=1OC=C(C(C1)=O)OCCCCCCCCCCCCCCCCCC | C24H42O4
reactant | propylamine | C(CC)N | C3H9N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Hydroxymethyl-5-octadecyloxy-1-propyl-4(1H)-pyridone | OCC=1N(C=C(C(C1)=O)OCCCCCCCCCCCCCCCCCC)CCC | C27H49NO3
